US04593102
N-[2-(Diethylamino)ethyl]-3-[[4-[2-(dimethylamino)ethoxy]phenyl]sulfonyl]-1-piperidinecarboxamide
Following the procedure of Example 16, N,N-diethyl aminoethylamine and 1,1'-carbonyldiimidazole and N,N-dimethyl-2-[4-[(3-piperidinyl)sulfonyl]phenoxy]ethanamine were reacted to give the title compound which was crystallized from diethyl ether-hexane as white crystals in 33.1% yield, m.p. 79°-80° C.

reactant | N,N-diethyl aminoethylamine | C(C)N(CC)CCN | C6H16N2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethyl-2-[4-[(3-piperidinyl)sulfonyl]phenoxy]ethanamine | CN(CCOC1=CC=C(C=C1)S(=O)(=O)C1CNCCC1)C | C15H24N2O3S
product | N-[2-(Diethylamino)ethyl]-3-[[4-[2-(dimethylamino)ethoxy]phenyl]sulfonyl]-1-piperidinecarboxamide | 33.1% yield | C(C)N(CCNC(=O)N1CC(CCC1)S(=O)(=O)C1=CC=C(C=C1)OCCN(C)C)CC | C22H38N4O4S
